US07820664B2
Step J: 3-(4-Bromo-2-chlorophenyl)-4-chloro-1H-diimidazo[1,2-a:4′,5′-d]pyridin-2(3H)-one:
To a suspension of 7-(4-bromo-2-chlorophenylamino)-8-chloroimidazo[1,2-a]pyridine-6-carboxylic acid (152 mg, 0.35 mmol) (HCl salt) in 5 ml EtOAc was added NEt3 (0.14 ml, 102 mg, 1 mmol) and the mixture was stirred for 5 min upon the suspension turned into a solution. The solvents were removed in vacuo and the residue was dried in oil-pump vacuo. This residue was suspended in 4.5 ml anhydrous toluene and it was ultrasonicated for 1 min. DPPA (0.1 ml, 124 mg, 0.44 mmol) was added and the suspension was heated with stirring under argon at 125° C. oil bath temperature to reflux for 5 h. The initial suspension turns into a dark solution after about 30 min. heating, and then a precipitate is formed after about another 30 min. reaction time. After 5 h the reaction mixture was cooled to room temperature and the volatiles were removed in vacuo. To the dark residue was washed with Et2O (ultrasonication) and again dried in oil pump vacuo. The crude product was used without purification for the next step in the same reaction vessel. Rf (CHCl3/MeOH 4:1)=0.5

reactant | 7-(4-bromo-2-chlorophenylamino)-8-chloroimidazo[1,2-a]pyridine-6-carboxylic acid | 0.35 mmol, 152 mg | BrC1=CC(=C(C=C1)NC1=C(C=2N(C=C1C(=O)O)C=CN2)Cl)Cl | C14H8BrCl2N3O2
reactant | NEt3 | 1 mmol, 0.14 ml, 102 mg | CCN(CC)CC | C6H15N
reactant | DPPA | 0.44 mmol, 0.1 ml, 124 mg | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
product | 3-(4-Bromo-2-chlorophenyl)-4-chloro-1H-diimidazo[1,2-a:4′,5′-d]pyridin-2(3H)-one | BrC1=CC(=C(C=C1)N1C(NC=2C1=C(C=1N(C2)C=CN1)Cl)=O)Cl | C14H7BrCl2N4O
